US07060827B2
In a manner similar to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and furfurylamine were reacted to yield 2-chloro-5-fluoro-N4-(furfuryl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 7.91 (d, 1H, J=1.8 Hz), 7.39 (d, 1H, J=1.2 Hz), 6.35 (m, 2H), 5.50 (bs, 1H), 4.69 (d, 2H, J=5.1 Hz); 19F NMR (CDCl3): −45163; LCMS: ret. time: 24.52 min.; purity: 97%; MS (m/e): 228 (M+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
product | 2-chloro-5-fluoro-N4-(furfuryl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCC1=CC=CO1)F | C9H7ClFN3O
